US08242280B2
A solution of 2-{6-[3-(2-Methoxy-phenyl)-1H-pyrrolo[2,3-b]pyridin-5-yl]-pyrimidin-4-yl}-N,N-dimethyl-2-oxo-acetamide (25 mg, 0.062 mmole), in ethanol (0.4 mL), was cooled to 0° C. in an ice bath and sodium borohydride (7 mg, 0.186 mmole) added in one portion. The solution was removed from the cooling bath, maintained at ambient temperature for 15 min, heated to 50° C., and maintained for an additional 15 min. After cooling to ambient temperature, water (0.2 mL) was added followed by saturated ammonium chloride (0.2 mL). The reaction mixture was concentrated to remove most of the ethanol, diluted with ethyl acetate (10 mL), and the organic layer washed with saturated sodium bicarbonate (5 mL). The resulting organic layer was dried over magnesium sulfate, filtered, and concentrated. The crude product was dissolved in DMSO and purified by mass triggered reverse phase HPLC to afford pure 2-hydroxy-2-{6-[3-(2-methoxy-phenyl)-1H-pyrrolo[2,3-b]pyridin-5-yl]-pyrimidin-4-yl}-N,N-dimethyl-acetamide as a white solid. (2.3 mg, 9.2%). MS: m/z 404.2 (M+H+). 1H NMR (500 MHz, DMSO-d6) δ 2.87 (s, 3H), 3.13 (s, 3H), 3.83 (s, 3H), 5.57 (d, J=8.0 Hz, 1H), 6.08 (s, J=8.5 Hz, 1H), 7.09 (t, 1H), 7.17 (d, J=8.5 Hz, 1H), 7.34 (t, 1H), 7.58 (d, J=7.5 Hz. 1H), 7.79 (s, 1H), 8.24 (s, 1H), 8.74 (s, 1H), 9.08 (s, 1H), 9.12 (s, 1H), 12.17 (s, 1H).

reactant | 2-{6-[3-(2-Methoxy-phenyl)-1H-pyrrolo[2,3-b]pyridin-5-yl]-pyrimidin-4-yl}-N,N-dimethyl-2-oxo-acetamide | 0.062 mmole, 25 mg | COC1=C(C=CC=C1)C1=CNC2=NC=C(C=C21)C2=CC(=NC=N2)C(C(=O)N(C)C)=O | C22H19N5O3
reactant | sodium borohydride | 0.186 mmole, 7 mg | [BH4-].[Na+]
solvent | ethanol | 0.4 mL | C(C)O | C2H6O
product | 2-hydroxy-2-{6-[3-(2-methoxy-phenyl)-1H-pyrrolo[2,3-b]pyridin-5-yl]-pyrimidin-4-yl}-N,N-dimethyl-acetamide | OC(C(=O)N(C)C)C1=NC=NC(=C1)C=1C=C2C(=NC1)NC=C2C2=C(C=CC=C2)OC | C22H21N5O3
